Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I wanted to kill myself."
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
IDENTIFICATION:
___ man with unspecified depressive and likely psychotic 
disorders who presents to the ED from his college with suicidal 
ideation with a plan to cut himself with a knife.

HISTORY OF PRESENT ILLNESS:
Per Dr. ___ ___ ED Initial Psychiatry Consult 
note:

___ man with unspecified depressive and likely 
psychotic disorders who presents to the ED from his college with 
suicidal ideation with a plan to cut himself with a knife. 

On interview, patient reports that ___ has been having suicidal 
ideation intermittently over the last few days and ___ decided to 
tell a random student at school who then called Public Safety.  
Patient states that ___ has been "thinking a lot about death" and 
that ___ "likes death."  ___ notes that ___ primarily thinks about 
cutting himself with a knife.  ___ states that ___ did go and get 
the knife out of the drawer at one point over the last few days. 
 ___ states that ___ is also thought about shooting himself with a 
gun, but has not gone out and bought one.  She notes associated 
early morning awakenings, anhedonia, appetite suppression, 
decreased energy, and hopelessness.  ___ noted that the 
hopelessness got better once ___ was at the hospital because 
"people care about me."   Patient is able to identify his mother 
and jazz music as protective factors.

If these depressive symptoms have been present with command 
auditory hallucinations.  ___ notes that the hallucinations will 
tell him to act on the suicidal thoughts.  ___ also notes that 
they will call him derogatory names.  ___ states that these have 
been going on for 7 months, they are made better by marijuana, 
and made worse by "being alone".  ___ reports getting special 
messages from Facebook at times but is not able to divulge more 
specifics.  ___ states that ___ has been paranoid over the last 
few days noting that ___ thought there was a sniper out to get 
him when ___ was in his dorm room yesterday.  ___ had that these 
experiences lead to worsening depression because "every 
perception you have is not real."  There is not any current 
homicidal ideation, but the patient reports wanting to harm a 
random stranger when ___ was high on marijuana two days ago."

In the ED, patient remained in good behavioral control without 
needing chemical or physical restraints.

On interview today, the patient relayed that his symptoms 
started approximately 7 months ago after ___ "tripped acid". ___ 
said ever since then ___ been experiencing AH, with recent 
worsening of these hallucinations 3 days prior to admission when 
the patient smoked marijuana daily for 3 days. ___ said that when 
___ was high, the voices would get louder and that ultimately 
they started saying very negative things towards him like 
"you're a slut. Give it up." In the setting of these worsening 
symptoms, ___ also started experiencing suicidal thoughts, which 
were then encouraged by command AH. ___ currently reports still 
having intermittent suicidal thoughts, but that they've been 
better since getting into the hospital. ___ also endorsed 
paranoid delusions that there were 
"companies...corporations...out there that can control my 
thoughts." 

REVIEW OF SYSTEMS:
-Psychiatric: 
---Depression: Denies symptoms of depression such as 
fatigue/loss of energy, anhedonia, sleep disturbance including 
insomnia or hypersomnia, loss of appetite/weight changes, 
psychomotor agitation or retardation.
---Anxiety: Denies symptoms of anxiety such as worry, 
rumination,
avoidance, phobias, panic.
---Mania: Denies symptoms of mania such as distractibility, 
erratic/risky behavior, grandiosity, flight of ideas, increased 
activity, decreased need for sleep, or talkativeness/pressured 
speech.  
---Psychosis: see HPI
-General: Denies fatigue, fever, chills, nightsweats, headache, 
focal numbness, focal weakness, changes in vision, changes in 
hearing, heat intolerance, cold intolerance, polyuria, 
polydipsia, cough, SOB, CP, palpitations, abdominal pain, 
nausea, vomiting, diarrhea, constipation, melena, dysuria, 
increased
urinary frequency, rash, skin changes, joint pain, muscle pain, 
edema, bruising, bleeding.

PAST PSYCHIATRIC HISTORY:
[Extracted from Dr. ___ ___ ED Initial 
Psychiatry Consult note, reviewed with patient, and updated as 
appropriate.]
-Diagnoses: Unspecified depressive and psychotic disorders
-Hospitalizations: None
-Current treaters and treatment: ___, MD 
___ is his therapist at school and 
___ is another therapist.
-Medication and ECT trials: Aripiprazole, risperidone, 
citalopram, and perphenazine.
-Self-injury: Patient reports some history of cutting with vague 
details.  ___ denies any prior suicide attempts
-Harm to others:  Denies
-Access to weapons:  Denies access to guns but does have access 
to knives

PAST MEDICAL HISTORY: denies
**PCP: denies 
___ history of head trauma, seizure.

MEDICATIONS:
[Including vitamins, herbs, supplements, OTC]
Perphenazine 12 mg po daily
Citalopram 40 mg po daily

ALLERGIES: 
NKDA
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
[Extracted from Dr. ___ ___ ED Initial
Psychiatry Consult note, reviewed with patient, and updated as
appropriate.]
-Diagnoses: Unspecified depressive and psychotic disorders
-Hospitalizations: None
-Current treaters and treatment: ___, MD
___ is his therapist at school and
___ is another therapist.
-Medication and ECT trials: Aripiprazole, risperidone, 
citalopram, and perphenazine.
-Self-injury: Patient reports some history of cutting with vague
details.  ___ denies any prior suicide attempts
-Harm to others:  Denies
-Access to weapons:  Denies access to guns but does have access
to knives

PAST MEDICAL HISTORY: denies
**PCP: denies 
___ history of head trauma, seizure.

MEDICATIONS:
[Including vitamins, herbs, supplements, OTC]
Perphenazine 12 mg po daily
Citalopram 40 mg po daily

ALLERGIES: 
NKDA

SUBSTANCE USE HISTORY:
- Alcohol Use: Patient reports drinking alcohol 1 time per week. 

___ is unsure how many times ___ has had more than 4 drinks in a
sitting
- Tobacco History: Denies
- Illicit Substances:  Patient reports smoking marijuana 
multiple
times daily
-Other Drugs: Denies

FORENSIC HISTORY:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies
 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Patient is Unsure if any of his family members have depression, 
bipolar disorder, or schizophrenia.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:

VITAL SIGNS:
T 98.3 PO; BP 121/83; P 71; RR 20; sat 97% ra 

EXAM:
General: no apparent distress
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes, 
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No 
tenderness to palpation in all quadrants.  No guarding, no 
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk 
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___ 
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout 
Coordination: Normal on finger to nose test, no intention tremor 
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty.  Romberg 
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: short and long-term grossly intact
-Fund of knowledge: Consistent with education-Calculations: 7 
quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the 
other side" as "You can make it out. You can do it."
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors, 
appropriate to conversation

Mental Status:
-Appearance: ___ year old man appearing stated age, well groomed, 
wearing casual clothes, in no apparent distress
-Behavior: Sitting up in chair, appropriate eye contact, no 
psychomotor agitation or retardation
-Attitude: Cooperative
-Mood: "Better"
-Affect: flat
-Speech: Normal rate, volume, and tone
-Thought process: mostly linear, some thought blocking, 
goal-oriented, no loose associations
-Thought Content:
---Safety: Denies violent ideation, endorses ongoing but 
intermittent SI that's improved as compared to arrival
---Delusions: paranoia regarding corporations controlling his 
thoughts
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: endorses ongoing CAH
-Insight: Limited
-Judgment: Limited

DISCHARGE PHYSICAL EXAM:
T98.2 PO, 113/76, HR 70, RR 18, O2 98% RA

Mental Status:
-Appearance: young man appearing stated age, adequate hygiene,
wearing t-shirt and athletic shorts, in no apparent distress
-Behavior: Sitting up in chair, appropriate eye contact 
-Attitude: Cooperative
-Mood: "Better"
-Affect: happy, relieved, appropriate to conversation, yawning
occasionally 
-Speech: Normal rate, volume, and tone
-Thought process: linear, coherent, no loose associations 
-Thought Content:
---Safety: Denies violent ideation, denies current SI 
---Delusions: no evidence of paranoia on interview today 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: endorses occasional AH, denies current VH,
does not appear to be responding to internal stimuli
-Insight: Limited
-Judgment: Limited

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: attentive to interview, asked for repetition of the
question once 
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: short and long-term grossly intact
-Fund of knowledge: Consistent with education
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

 
Pertinent Results:
CBC and BMP WNL
Urine and serum tox screens negative

 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___. However, 
on meeting with the team, ___ decided to sign a conditional 
voluntary agreement on ___. ___ was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
Briefly, patient is a ___ y/o ___ student with history of 
psychotic and depressive symptoms over the past year, along with 
cannabis use disorder, who was BIB EMS endorsing suicidal 
ideation in the context of worsening command auditory 
hallucinations instructing him to harm himself with a knife 
(which patient had in his position in his dorm room). On initial 
presentation to Deac 4, patient appeared internally preoccupied, 
requiring frequent repetition of questions. ___ endorsed ongoing 
and intense auditory hallucinations telling him to harm himself. 
___ also endorsed significant delusional thought content, feeling 
that others could read his mind, particularly his treatment 
team, along with feeling that his thoughts were not his own. 
These symptoms had been preceded by the patient smoking 
marijuana heavily over a period of three days, though the 
patient endorsed having psychotic symptoms over the last 7 
months (following one time use of LSD). While ___ reported a 
prior history of heavy cannabis use, ___ indicated ___ had 
abstained from marijuana up until three days ago. Patient 
reported having been on three different antipsychotics since his 
symptoms started, including Risperdal, Abilify, and currently 
Trilafon. ___ endorsed that while Trilafon worked well to keep 
the voices as bay, ___ felt that it made him blunted and "unable 
to feel anything." In an attempt to "feel" something, patient 
turned to marijuana leading to his symptoms.

His outpatient psychiatrist, Dr. ___, was contacted for 
collateral. Dr. ___ that ___ diagnosis was 
most consistent with schizophrenia, given the persistence of his 
symptoms in the absence of substance use. As such, it appeared 
that ___ symptoms were a result of exacerbation of 
underlying psychotic disorder from marijuana rather than 
entirely substance induced. Dr. ___ reported that patient had 
been on Risperdal and Abilify prior to Trilafon. She reported 
that Abilify did not control hallucinations and Risperdal made 
the patient feel "terrible" and put on weight. She was aware of 
___ emotional blunting from Trilafon and had started the 
patient on Celexa 40 mg as a means to offset this. However, 
given severity of negative symptoms which led to the patient 
smoking marijuana, Dr. ___ changing 
antipsychotics and suggested trial of Latuda as a viable option. 
The inpatient team was in agreement with this plan. Patient was 
started on Latuda and taper of trilafon was begun. No changes 
were made to ___ celexa.

Shortly after beginning to adjust ___ medications, patient 
endorsed marked improvement in psychotic symptoms. ___ reported 
that the voices were at a minimum, and were less intense and 
non-command in nature. Delusional thought content also 
diminished to the point where patient acknowledged that these 
delusions were not real and not at the forefront of his mind. ___ 
denied depression and thoughts of self-harm, stating, "that was 
mainly because of the voices." ___ appeared brighter, more 
interactive with his treatment team, and much less internally 
preoccupied and able to carry out a conversation without much 
difficulty. Latuda was increased to 80 mg and trilafon was 
titrated off. Patient demonstrated good insight to his illness 
and the fact that the current episode was triggered by marijuana 
use. ___ was counseled on the negative effects of marijuana use 
especially given his circumstances and advised strongly to never 
smoke marijuana again. Given marked reduction in his symptoms, 
linearity of thought process, and improved reality-testing 
ability, patient was felt to be able to continue treatment as an 
outpatient. ___ was discharged with plan for re-entry meeting at 
___ the same day followed by a flight home to ___ the 
day after (patient revealed during his admission that ___ had 
booked a flight home for ___ with family). On return, 
patient had follow-ups scheduled with both his psychiatrist and 
therapist at ___. ___ will likely require continued uptitration 
of Latuda.

3. SUBSTANCE USE DISORDERS:
- Patient endorsed drinking alcohol one time per week; ___ denied 
binge drinking. Patient was counseled on effects of alcohol and 
mental and physical health.
- Patient denied use of tobacco along with other illicit 
substances.
- Routine urine and serum tox screens were negative.

4. MEDICAL:
Patient had no acute or chronic medical issues. Nevertheless, an 
appointment was made with his PCP for routine ___ following 
discharge.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups focus on teaching 
patients various coping skills, which patient utilized 
intermittently, often requiring encouragement from the treatment 
team to attend. The patient was otherwise calm and cooperative 
in the milieu.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
- As mentioned above, ___ psychiatrist was contacted for 
collateral and for coordination of care.
- ___ mother was provided with frequent clinical updates 
on ___ progress and was involved with disposition planning 
(with the ___ permission).

#) INTERVENTIONS
- Medications: Started Latuda (see above), tapered off Trilafon
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: ___, therapy, 
and psychiatry

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting latuda. We discussed the ___ right to decide 
whether to take this medication as well as the importance of the 
patient actively participating in the treatment and discussing 
any questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS:
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon a 
number of risk factors.  The modifiable risk factors included SI 
w/ plan, psychosis, disorganized behavior, substance use, 
limited coping skills, and poor reality testing. His static 
factors were noted to be chronic mental illness, history of 
substance abuse and male gender.  The modifiable risk factors 
were addressed by psychopharmacologic adjustments, individual 
and group therapy, ensuring resolution of psychotic episode and 
suicidal ideation, along with coordination of aftercare. 
Finally, the patient is being discharged with many protective 
risk factors, help-seeking nature, future-oriented viewpoint, 
sense of responsibility to family, therapeutic relationship with 
outpatient providers, and no history of self-harm. Patient 
demonstrated preserved capacity to engage in a meaningful 
discussion about safety planning in the event that thoughts of 
suicide or self-harm arise in the future. Based on the totality 
of our assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Perphenazine 12 mg PO DAILY 
2. Citalopram 40 mg PO DAILY 

 
Discharge Medications:
1.  Latuda (lurasidone) 80 mg oral with dinner 
2.  Citalopram 40 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Schizophrenia

 
Discharge Condition:
Mental Status: Linear; notable for some thought blocking and 
residual delusional thoughts. No AVH.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___